### PR TITLE
feat: formalize Fernandes' conjecture on 2-generation (arXiv:2605.123…

### LINKED ISSUE #4815: Fernandes' conjecture on the 2-generation of even direct product permutation groups
### What is the conjecture
Let $m, n \ge 2$ be positive integers, and let $\mathrm{S}_m \times \mathrm{S}_n$ be the direct product of symmetric groups on $[m] = \{1, \dots, m\}$ and $[n'] = \{1', \dots, n'\}$. Let

$$
\Gamma_{m \oplus n} = \{(\sigma_1, \sigma_2) \in \mathrm{S}_m \times \mathrm{S}_n : \mathrm{sgn}(\sigma_1) = \mathrm{sgn}(\sigma_2)\}
$$

be the index-$2$ subgroup consisting of pairs of permutations with equal parity (i.e., whose product action on $[m] \cup [n']$ is an even permutation).

It is known that $\mathrm{rank}(\Gamma_{2 \oplus 2}) = 1$, and that $\mathrm{rank}(\Gamma_{3 \oplus 3}) = \mathrm{rank}(\Gamma_{4 \oplus 3}) = \mathrm{rank}(\Gamma_{4 \oplus 4}) = 3$.

**Conjecture (Vítor H. Fernandes, 2026):** For all integers $m \ge n \ge 2$ such that $(m, n) \notin \{(2,2), (3,3), (4,3), (4,4)\}$, the group $\Gamma_{m \oplus n}$ has rank $2$ (i.e., is generated by two elements):

$$
\mathrm{rank}(\Gamma_{m \oplus n}) = 2.
$$

* **Source Paper:** *Groups of permutations that are even on maximal proper subsets, and related monoids* ([arXiv:2605.12342](https://arxiv.org/abs/2605.12342), [HTML](https://arxiv.org/html/2605.12342), [PDF](https://arxiv.org/pdf/2605.12342))
* **Authors:** Vítor H. Fernandes
* **In-Paper Location:** [Conjecture 1 (Page 5)](https://arxiv.org/pdf/2605.12342#page=5) in Section 3 "The groups $\Gamma_{m \oplus n}$"
* **OpenConjecture ID:** 2894 ([OpenConjecture](https://github.com/davisrbr/conjectures-arxiv))

### Prerequisites needed
None. All required concepts are standard and readily available in Mathlib4:
* Permutation parity and signature: [`Mathlib.GroupTheory.Perm.Sign`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/GroupTheory/Perm/Sign.html)
* Subgroups and subgroup generation (`Subgroup.closure`): [`Mathlib.Algebra.Group.Subgroup.Basic`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Group/Subgroup/Basic.html)
* Alternating groups and direct products: [`Mathlib.GroupTheory.SpecificGroups.Alternating`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/GroupTheory/SpecificGroups/Alternating.html)

### Choose either option
- [ ] I plan on adding this conjecture to the repository
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

This issue was generated by an AI agent and reviewed by me.

### PR DESCRIPTION
**Pull request by akanil18**
…42, issue #4815)

Adds a formalization of Conjecture 1 from Vítor H. Fernandes' paper 'Groups of permutations that are even on maximal proper subsets, and related monoids' (arXiv:2605.12342).

The conjecture states that for all integers m ≥ n ≥ 2 with (m,n) ∉ {(2,2),(3,3),(4,3),(4,4)}, the group
  Γ_{m⊕n} = {(σ₁,σ₂) ∈ Sₘ×Sₙ : sgn(σ₁) = sgn(σ₂)}
has rank 2 (is 2-generated).

Defines:
- signDiffHom: the sign-difference monoid homomorphism Sₘ×Sₙ →* ℤˣ
- gammaSubgroup: Γ_{m⊕n} as the kernel of signDiffHom
- conjecture_1: main open conjecture [category research open, AMS 20]
- conjecture_1.variants.*: known solved cases for ranks at (2,2), (3,3), (4,3), (4,4)

Closes #4815

### CODE REVIEW

**Comment by williamjblair** [comment]
Statement matches Conjecture 1 word for word, including `m ⩾ n ⩾ 2` and the same four exceptions. `gammaSubgroup` is the right object too: the paper's `Γm⊕n = A([m])A([n′]) ∪ (S([m])∖A([m]))(S([n′])∖A([n′]))` is exactly the kernel of `sgn(σ₁)·sgn(σ₂)⁻¹`, and `|Γm⊕n| = m!n!/2` confirms the index. The four exceptional ranks are the paper's as well, 1 for `Γ2⊕2` with the explicit generator and 3 for the other three by GAP. Builds clean.

The phrasing gives rank at most 2 rather than rank 2, since `∃ g₁ g₂, Subgroup.closure {g₁, g₂} = ⊤` lets `g₁` and `g₂` coincide. That shows up on the exclusion list: `Γ2⊕2` has rank 1 and satisfies the statement as written by taking `g₁ = g₂`.

```lean
example (h : ∃ g : gammaSubgroup 2 2, Subgroup.closure {g} = ⊤) :
    ∃ g₁ g₂ : gammaSubgroup 2 2, Subgroup.closure {g₁, g₂} = ⊤ := by
  obtain ⟨g, hg⟩ := h
  exact ⟨g, g, by simpa using hg⟩
```

So excluding `(2,2)` has no effect here, where the paper has to exclude it. The `(3,3)`, `(4,3)` and `(4,4)` exclusions still do work, since those are not 2-generated at all.

The upper bound is the content of the conjecture either way, so this may be what you intended. Saying rank 2 needs the non-cyclic half alongside it.

**Comment by williamjblair** [comment]
Builds clean here, no `axiom` and no `native_decide`, five `sorry`s for the open statement and the four variants.

`signDiffHom` and `gammaSubgroup` look right. The orders come out as `m!·n!/2` in all four exceptional cases, so the kernel is index 2 as the docstring says.

I brute-forced the variants:

| | order | minimal generators |
|---|---|---|
| Γ₂⊕₂ | 2 | 1 |
| Γ₃⊕₃ | 18 | ≥ 3 |
| Γ₄⊕₃ | 72 | ≥ 3 |
| Γ₄⊕₄ | 288 | ≥ 3 |

All four match the docstrings.

The exception list has one member that isn't doing work. `∃ g₁ g₂, Subgroup.closure {g₁, g₂} = ⊤` says "at most two generators", so a rank-1 group satisfies it by taking `g₂ = g₁`:

```lean
example {G : Type*} [Group G] (h : ∃ g : G, Subgroup.closure {g} = ⊤) :
    ∃ g₁ g₂ : G, Subgroup.closure {g₁, g₂} = ⊤ := by
  obtain ⟨g, hg⟩ := h
  exact ⟨g, g, by simpa using hg⟩
```

Γ₂⊕₂ has rank 1, so `conjecture_1` holds at `(2, 2)` whether or not it is excluded; only `(3,3)`, `(4,3)` and `(4,4)` constrain anything in `h_except`. The list matches the paper, so the fix is in the docstring: "has rank 2, i.e., it is generated by two elements" blurs exactly-two into at-most-two, and `(2,2)` is on the list for the first reading.

File: FormalConjectures/Arxiv/2605.12342/Conjecture1.lean [hunk 1]
```diff
@@ -0,0 +1,117 @@
...
+/--
+**Conjecture 1 (Fernandes, 2026):**
+Let $m \ge n \ge 2$ be integers with $(m, n) \notin \{(2,2), (3,3), (4,3), (4,4)\}$.
+Then the group
+$$
+\Gamma_{m \oplus n} = \{(\sigma_1, \sigma_2) \in \mathrm{S}_m \times \mathrm{S}_n :
+  \mathrm{sgn}(\sigma_1) = \mathrm{sgn}(\sigma_2)\}
+$$
+has rank $2$, i.e., it is generated by two elements.
+-/
```
Comment (mo271) [inline FormalConjectures/Arxiv/2605.12342/Conjecture1.lean:83]:
```suggestion
/--
**Conjecture 1 (Fernandes, 2026):**
Let $m \ge n \ge 2$ be integers with $(m, n) \notin \{(2,2), (3,3), (4,3), (4,4)\}$.
Then the group
$$
\Gamma_{m \oplus n} = \{(\sigma_1, \sigma_2) \in \mathrm{S}_m \times \mathrm{S}_n :
  \mathrm{sgn}(\sigma_1) = \mathrm{sgn}(\sigma_2)\}
$$
has rank $2$, i.e., minimal generating set of size $2$.

Note: Fernandes states the conjecture for groups of exact rank $2$, which is why $(2,2)$
is in the exception list: $\Gamma_{2 \oplus 2} \cong C_2$ has rank $1$. The formalised
conclusion `∃ g₁ g₂, closure {g₁, g₂} = ⊤` encodes 2-generation (at most $2$ generators),
which $\Gamma_{2 \oplus 2}$ also satisfies. The other three exceptions $(3,3), (4,3), (4,4)$
have rank $3$ and are genuinely not 2-generated.
-/
```

**Review by mo271 — APPROVED** [review]
LGTM, just made a suggestion to reflect @williamjblair's comment

**Comment by akanil18** [comment]
I applied the suggestion please check it now.

**Comment by williamjblair** [comment]
Checked, looks good now!
